US08053438B2
Carbon tetrabromide (11.0 g, 33.2 mmol) was added to a solution of triphenylphosphine (8.70 g, 33.2 mmol), imidazole (2.47 g, 36.3 mmol), and 1,4-dioxaspiro[4.5]decan-8-ol (5.0 g, 31.6 mmol) in DCM (150 mL) under argon at 0° C. The ice bath was removed and the mixture was stirred for 24 h at RT. The solvent was removed in vacuo to give an oil that was purified by silica gel chromatography to give 8-Bromo-1,4-dioxaspiro[4.5]decane.

reactant | Carbon tetrabromide | 33.2 mmol, 11.0 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 33.2 mmol, 8.70 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | imidazole | 36.3 mmol, 2.47 g | N1C=NC=C1 | C3H4N2
reactant | 1,4-dioxaspiro[4.5]decan-8-ol | 31.6 mmol, 5.0 g | O1CCOC12CCC(CC2)O | C8H14O3
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
product | 8-Bromo-1,4-dioxaspiro[4.5]decane | BrC1CCC2(OCCO2)CC1 | C8H13BrO2
